US04727081
N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide
0.8 ml (13 mmol) of methylisocyanate are added to 2.0 g (6.6 mmol) of N-[3-[3-(1-piperidinylmethyl)phenoxy]-propyl]-hydrazine carboxamide in 20 ml of THF and the reaction mixture is stirred at room temperature for one hour. The precipitate is filtered off and recrystallised from methanol. The analytical values are summarized in Table I.

reactant | methylisocyanate | 13 mmol, 0.8 ml | CN=C=O | C2H3NO
reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]-propyl]-hydrazine carboxamide | 6.6 mmol, 2.0 g | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide | CNC(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H29N5O3
